US07312214B2
6-{4-[1-(1-Hydroxyethyl)cyclopropyl]phenyl}-1-(4-methoxyphenyl)-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one
1-{4-[1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-phenyl}-cyclopropanecarbaldehyde (93 mg, 0.21 mmol) was stirred in Et2O (2 mL) at −78° C. ZnMe2 (2M in toluene, 0.16 mL, 1.5 eq) was added followed by the addition of TiCl4 (1 M in CH2Cl2, 0.3 mL). The resulting mixture was stirred for 1 h. The reaction was quenched by addition of NH4Cl, extracted with EtOAc, washed with H2O and brine, dried over MgSO4, filter, and concentrated. The residue was purified by silica gel column to yield the pure desired product (62 mg, yield: 64.5%). LC/MS (ESI+) 472.6 (M+H)+, tR=2.44 min (35–95% CH3CN/H2O in a 6-min run).

reactant | 1-{4-[1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-phenyl}-cyclopropanecarbaldehyde | 0.21 mmol, 93 mg | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)C2(CC2)C=O)=O)C(F)(F)F | C24H20F3N3O3
reactant | ZnMe2 | 2M, 0.16 mL, 1.5 eq | [Zn](C)C
solvent | Et2O | 2 mL | CCOCC | C4H10O
catalyst | TiCl4 | 1 M, 0.3 mL | Cl[Ti](Cl)(Cl)Cl
product | 6-{4-[1-(1-Hydroxyethyl)cyclopropyl]phenyl}-1-(4-methoxyphenyl)-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one | 62 mg, yield: 64.5% | OC(C)C1(CC1)C1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(F)(F)F)=O | C25H24F3N3O3
